US07423030B2
1.3. 4-Chloro-6-methoxy-1-phenylphthalazine
7-Methoxy-4-phenyl-2H-phthalazin-1-one (740 mg, 2.9 mmol) is dissolved in 7 mL of phosphoryl chloride. The solution is heated at 80° C. for 2 hours. The reaction medium is cooled to room temperature and then poured slowly into 200 mL of water with stirring. The mixture is then stirred at 5° C., basified with 35% sodium hydroxide solution and then extracted with dichloromethane. The organic phase is washed with water and then with brine and dried over anhydrous sodium sulfate. After filtration and evaporation under reduced pressure, 750 mg of product are obtained in the form of a beige-coloured powder.

reactant | 7-Methoxy-4-phenyl-2H-phthalazin-1-one | 2.9 mmol, 740 mg | COC1=CC=C2C(=NNC(C2=C1)=O)C1=CC=CC=C1 | C15H12N2O2
reactant | water | 200 mL | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | phosphoryl chloride | 7 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-6-methoxy-1-phenylphthalazine | ClC1=NN=C(C2=CC=C(C=C12)OC)C1=CC=CC=C1 | C15H11ClN2O
